US06184242B2
A solution of 4-(4-benzylaminosulfonylmethylbenzyl)-nitrobenzene (44 mg) was dissolved in ethyl acetate and hydrogenated at 40 psi with 10% palladium on carbon catalyst for 2 hours. The mixture was filtered, and the solvent was evaported to give 4-(4-benzylaminosulfonylmethylbenzyl)-phenylamine (39 mg) as an off-white solid.

reactant | 4-(4-benzylaminosulfonylmethylbenzyl)-nitrobenzene | 44 mg | C(C1=CC=CC=C1)NS(=O)(=O)CC1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C21H20N2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(4-benzylaminosulfonylmethylbenzyl)-phenylamine | 39 mg | C(C1=CC=CC=C1)NS(=O)(=O)CC1=CC=C(CC2=CC=C(C=C2)N)C=C1 | C21H22N2O2S
